*$
* TPS2117
*****************************************************************************
* (C) Copyright 2025 Texas Instruments Incorporated. All rights reserved.                                            
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of 
** merchantability or fitness for a particular purpose.  The model is
** provided solely on an "as is" basis.  The entire risk as to its quality
** and performance is with the customer
*****************************************************************************
*
* This model is subject to change without notice. Texas Instruments
* Incorporated is not responsible for updating this model.
*
*****************************************************************************
*
** Released by: Texas Instruments Inc.
* Part: TPS2117
* Date: 17JULY2025
* Model Type: TRANSIENT
* Simulator: PSPICE
* Simulator Version: 17.2-2016 S074
* EVM Order Number: TPS2117EVM
* EVM Users Guide: PSIL234
* Datasheet: SLVSGZ5A – AUGUST 2023
*
* Model Version: Final 1.10
*
*****************************************************************************
*

*
*****************************************************************************
*
* Model Usage Notes:
* A. Features have been modelled
*	1. 	Turn-on switching characteristic
*	2. 	Switch over characteristic- Priority/Manual mode
*	3. 	Reverse current blocking
*	4. 	Quiescent Current and Standby Current
*	5. 	Ron Variation with VIN
*   6.  Status pin(ST) behaviour
*
* B. Features have not been modelled
*	1.  Temperature dependent characteristics
*
*****************************************************************************
.SUBCKT  TPS2117_TRANS  GND MODE PR1 ST VIN1 VIN2 VOUT_0 VOUT_1  
D_U1_D8         VOUT_0 U1_SOURCE DD 
D_U1_D9         GND U1_GATE_1 DD 
D_U1_D7         U1_N16177224 U1_SOURCE DD 
M_U1_HFET_1         VOUT_0 U1_GATE_1 U1_SOURCE U1_CLAMP PMOS01           
D_U1_D6         U1_GATE_1 U1_CLAMP DD 
G_U1_G1         U1_CLAMP U1_GATE_1 U1_BFET_EN 0 1m
G_U1_G8         U1_GATE_1 GND TABLE { V(U1_N16194620, 0) } 
+ ( (0,0)(1.8,208n)(3.3,264n)(5.0,306n) )
E_U1_ABM16         U1_N16194620 0 VALUE { IF(V(EN_GATE1) > 0.5, V(VIN1),0)    }
C_U1_C4         VOUT_0 U1_GATE_1  130p  TC=0,0 
G_U1_G11         U1_GATE_1 GND FAST_RISE_1 0 100u
E_U1_ABM17         U1_CLAMP 0 VALUE { IF((V(VOUT_0)  
+ >V(VIN1)),V(VOUT_0),V(VIN1))   }
X_U1_U7         U1_N16680056 U1_N16177224 U1_ON_RES1 0 RVAR PARAMS:  RREF=1
X_U1_U59         U1_N16678010 EN_CH1 U1_N16678042 AND2_BASIC_GEN PARAMS: VDD=1
+  VSS=0 VTHRESH=500E-3
X_U1_S2    U1_BFET_EN 0 U1_N16177224 U1_SOURCE CHANNEL_1_U1_S2 
V_U1_V2         U1_N16184706 0 25m
V_U1_V1         U1_N16184645 VIN1_INT 42m
X_U1_U57         FAST_RISE_1 EN_GATE1 U1_N16678010 OR2_BASIC_GEN PARAMS: VDD=1
+  VSS=0 VTHRESH=500E-3
X_U1_S1    RCB_1 0 VIN1 U1_N16680056 CHANNEL_1_U1_S1 
E_U1_E2         U1_N16679358 0 TABLE { V(VIN1_INT, 0) } 
+ ( (0,0)(1.6,39m)(1.8,38m)(3.3,38m)(4,35m) )
X_U1_U58         U1_N16678042 U1_BFET_EN INV_DELAY_BASIC_GEN PARAMS: VDD=1
+  VSS=0 VTHRESH=0.5 DELAY=200n
C_U1_C11         0 U1_ON_RES1  1n  
X_U1_U3         U1_N16185653 RCB_1 BUF_DELAY_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=0.5 DELAY=2u
X_U1_U2         VOUT_INT U1_N16184645 U1_N16184706 U1_N16185653
+  COMPHYS_BASIC_GEN PARAMS: VDD=1 VSS=0 VTHRESH=0.5
R_U1_R6         U1_N16679358 U1_ON_RES1  10 TC=0,0 
R_R1         VOUT_1 VOUT_0  1m TC=0,0 
X_U3_U8         U3_MODE_SEL U3_N16179076 U3_N16690215 AND2_BASIC_GEN PARAMS:
+  VDD=1 VSS=0 VTHRESH=500E-3
V_U3_V3         U3_N16178390 0 1
V_U3_V4         U3_N16178468 0 22m
X_U3_U1         MODE_INT U3_N16691574 U3_N16178252 U3_MODE_SEL
+  COMPHYS_BASIC_GEN PARAMS: VDD=1 VSS=0 VTHRESH=0.5
X_U3_U2         PR1_INT U3_N16178390 U3_N16178468 U3_PR1_SEL COMPHYS_BASIC_GEN
+  PARAMS: VDD=1 VSS=0 VTHRESH=0.5
V_U3_V2         U3_N16178252 0 100m
D_U3_D8         0 U3_N16684426 DD 
X_U3_S1    U3_N16686667 0 ST 0 MODE_PR1_ST_U3_S1 
X_U3_U73         EN_CH2 U3_N16683632 INV_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=500E-3
X_U3_U75         U3_N16684426 U3_SWITCH_OVER_DELAY_2 BUF_BASIC_GEN PARAMS:
+  VDD=1 VSS=0 VTHRESH=0.5
E_U3_ABM7         U3_N166830931 0 VALUE { IF(V(U3_N16683632) > 0.5,
+  V(VIN1_INT),0)    }
V_U3_V6         U3_N16181467 0 1.59
E_U3_ABM8         U3_N166843121 0 VALUE { IF(V(U3_N16684336) > 0.5,
+  V(VIN2_INT),0)    }
C_U3_C5         0 U3_N16683195  1n IC=0 
C_U3_C4         0 U3_N16683157  1n  
X_U3_U18         VIN1_INT U3_N16181467 IN1_OK COMP_BASIC_GEN PARAMS: VDD=1
+  VSS=0 VTHRESH=0.5
X_U3_U14         U3_N16686181 U3_N16686667 BUF_DELAY_BASIC_GEN PARAMS: VDD=1
+  VSS=0 VTHRESH=0.5 DELAY=5u
R_U3_R3         U3_N166830931 U3_N16683157  10 TC=0,0 
X_U3_U78         EN_CH1 U3_N16686162 U3_N16686181 N16686185
+  SRLATCHRHP_BASIC_GEN PARAMS: VDD=1 VSS=0 VTHRESH=0.5
C_U3_C7         0 U3_N16684426  1n IC=0 
D_U3_D5         U3_N16683195 U3_N16683065 DD 
C_U3_C6         0 U3_N16684388  1n  
X_U3_U24         U3_N16689992 IN1_OK U3_SWITCH_OVER_DELAY_1 EN_CH1
+  AND3_BASIC_GEN PARAMS: VDD=1 VSS=0 VTHRESH=500E-3
G_U3_G12         U3_N16683195 0 EN_CH2 0 100m
R_U3_R4         U3_N166843121 U3_N16684388  10 TC=0,0 
V_U3_V14         U3_N16684262 0 0.6
X_U3_U19         VIN2_INT U3_N16181621 IN2_OK COMP_BASIC_GEN PARAMS: VDD=1
+  VSS=0 VTHRESH=0.5
D_U3_D7         U3_N16684426 U3_N16684262 DD 
G_U3_G11         U3_N16683065 U3_N16683195 TABLE { V(U3_N16683157, 0) } 
+ ( (0,0) (1.8,30u) (3.3,100u)(5,80u) )
X_U3_U27         U3_N16690215 IN2_OK U3_SWITCH_OVER_DELAY_2 EN_CH2
+  AND3_BASIC_GEN PARAMS: VDD=1 VSS=0 VTHRESH=500E-3
G_U3_G14         U3_N16684426 0 EN_CH1 0 100m
V_U3_V13         U3_N16683065 0 0.6
X_U3_U87         IN2_OK EN_CH1 U3_N16688062 NOR2_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=500E-3
G_U3_G13         U3_N16684262 U3_N16684426 TABLE { V(U3_N16684388, 0) } 
+ ( (0,0) (1.8,30u) (3.3,100u)(5,80u) )
D_U3_D6         0 U3_N16683195 DD 
X_U3_U72         U3_N16683195 U3_SWITCH_OVER_DELAY_1 BUF_BASIC_GEN PARAMS:
+  VDD=1 VSS=0 VTHRESH=0.5
V_U3_V7         U3_N16181621 0 1.59
X_U3_U74         EN_CH1 U3_N16684336 INV_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=500E-3
V_U3_V15         U3_N16691368 0 0.1
V_U3_V1         U3_N16691574 0 1
X_U3_U90         U3_PR1_SEL U3_N16179076 INV_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=500E-3
X_U3_U91         EN_CH2 RCB_1 U3_N16688062 U3_N16686162 OR3_BASIC_GEN PARAMS:
+  VDD=1 VSS=0 VTHRESH=500E-3
X_U3_U89         U3_MODE_SEL U3_PR1_SEL U3_N16689992 AND2_BASIC_GEN PARAMS:
+  VDD=1 VSS=0 VTHRESH=500E-3
V_U3_V16         U3_N16693410 0 1
E_U3_E1         U3_N16691252 0 VIN1_INT VIN2_INT 1
X_U3_U92         U3_N16691252 U3_N16691368 U3_N16693410 CH1_SEL
+  COMPHYS_BASIC_GEN PARAMS: VDD=1 VSS=0 VTHRESH=0.5
E_E1         VIN1_INT 0 VIN1 GND 1
E_E2         VIN2_INT 0 VIN2 GND 1
E_E3         MODE_INT 0 MODE GND 1
E_E4         PR1_INT 0 PR1 GND 1
E_E5         VOUT_INT 0 VOUT_0 GND 1
V_U4_V14         U4_N16719653 0 1m
X_U4_U101         U4_N16719969 U4_N16719905 ONE_SHOT PARAMS:  T=100  
C_U4_C1         0 U4_N16720367  1u IC=0 
V_U4_V15         U4_N16719361 0 1
X_U4_U102         U4_N16719811 U4_N16719905 U4_N16719659 OR2_BASIC_GEN PARAMS:
+  VDD=1 VSS=0 VTHRESH=500E-3
X_U4_U86         EN_CH1 U4_N16719805 INV_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=500E-3
E_U4_ABM6         U4_N167201631 0 VALUE { IF(V(U4_POWER_UP_1) > 0.5,
+  V(VIN1_INT),0)    }
V_U4_V16         U4_N16720095 0 0.51
G_U4_G12         U4_N16720339 0 U4_N16720719 0 100m
G_U4_G3         U4_N16720099 U4_N16720367 TABLE { V(U4_N16720301, 0) } 
+ ( (0,0) (1.8,600u) (3.3,725u)(5,1m) )
D_U4_D4         0 U4_N16720367 DD 
X_U4_U97         EN_CH1 U4_N16719555 U4_POWER_UP_1 AND2_BASIC_GEN PARAMS: VDD=1
+  VSS=0 VTHRESH=500E-3
C_U4_C7         0 U4_N16720283  1n  
V_U4_V5         U4_N16720099 0 0.51
X_U4_U88         U4_N16719805 U4_N16719811 ONE_SHOT PARAMS:  T=100  
R_U4_R5         U4_N167201451 U4_N16720283  10 TC=0,0 
X_U4_U91         U4_N16719429 U4_N16719659 U4_N16719555 U4_N16719669
+  SRLATCHRHP_BASIC_GEN PARAMS: VDD=1 VSS=0 VTHRESH=0.5
X_U4_U104         U4_N16719669 EN_CH2 FAST_RISE_2 AND2_BASIC_GEN PARAMS: VDD=1
+  VSS=0 VTHRESH=500E-3
G_U4_G10         U4_N16720367 0 U4_N16720759 0 100m
D_U4_D5         U4_N16720339 U4_N16720095 DD 
X_U4_U95         U4_N16719669 EN_CH1 FAST_RISE_1 AND2_BASIC_GEN PARAMS: VDD=1
+  VSS=0 VTHRESH=500E-3
X_U4_U105         U4_N16720339 EN_GATE2 BUF_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=0.5
X_U4_U92         U4_N16719361 VOUT_INT U4_N16719367 COMP_BASIC_GEN PARAMS:
+  VDD=1 VSS=0 VTHRESH=0.5
X_U4_U94         U4_N16719373 U4_N16719451 U4_N16719429 OR2_BASIC_GEN PARAMS:
+  VDD=1 VSS=0 VTHRESH=500E-3
X_U4_U84         VOUT_INT U4_N16719653 U4_N16719601 COMP_BASIC_GEN PARAMS:
+  VDD=1 VSS=0 VTHRESH=0.5
C_U4_C8         0 U4_N16720339  1u IC=0 
G_U4_G11         U4_N16720095 U4_N16720339 TABLE { V(U4_N16720283, 0) } 
+ ( (0,0) (1.8,600u) (3.3,725u)(5,1m) )
C_U4_C3         0 U4_N16720301  1n  
X_U4_U106         EN_CH2 U4_N16720719 INV_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=500E-3
X_U4_U100         EN_CH2 U4_N16719969 INV_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=500E-3
X_U4_U43         U4_N16720367 EN_GATE1 BUF_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=0.5
D_U4_D6         0 U4_N16720339 DD 
X_U4_U93         U4_N16719367 U4_N16719373 ONE_SHOT PARAMS:  T=100  
X_U4_U103         EN_CH2 U4_N16719555 U4_POWER_UP_2 AND2_BASIC_GEN PARAMS:
+  VDD=1 VSS=0 VTHRESH=500E-3
D_U4_D3         U4_N16720367 U4_N16720099 DD 
X_U4_U99         EN_CH1 U4_N16720759 INV_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=500E-3
R_U4_R2         U4_N167201631 U4_N16720301  10 TC=0,0 
E_U4_ABM7         U4_N167201451 0 VALUE { IF(V(U4_POWER_UP_2) > 0.5,
+  V(VIN2_INT),0)    }
X_U4_U85         U4_N16719601 U4_N16719451 ONE_SHOT PARAMS:  T=100  
X_U6_U1         EN_CH1 CH1_SEL U6_N16669985 AND2_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=500E-3
G_U6_G7         VIN1 GND U6_N16672314 0 1.32u
X_U6_U9         CH1_SEL U6_N16671249 INV_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=500E-3
X_U6_U12         CH1_SEL U6_N16672366 INV_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=500E-3
X_U6_U5         EN_CH2 U6_N16671900 U6_N16671860 AND2_BASIC_GEN PARAMS: VDD=1
+  VSS=0 VTHRESH=500E-3
G_U6_G6         VIN2 GND U6_N16671209 0 1.35u
G_U6_G8         VIN1 GND U6_N16672326 0 0.3u
G_U6_G3         VIN1 GND U6_N16671848 0 1.1u
X_U6_U6         CH1_SEL U6_N16671900 INV_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=500E-3
X_U6_U3         CH1_SEL U6_N16670318 INV_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=500E-3
X_U6_U7         EN_CH2 CH1_SEL U6_N16671197 AND2_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=500E-3
X_U6_U2         EN_CH1 U6_N16670318 U6_N16670140 AND2_BASIC_GEN PARAMS: VDD=1
+  VSS=0 VTHRESH=500E-3
X_U6_U10         EN_CH1 CH1_SEL U6_N16672314 AND2_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=500E-3
G_U6_G4         VIN1 GND U6_N16671860 0 0.22u
X_U6_U8         EN_CH2 U6_N16671249 U6_N16671209 AND2_BASIC_GEN PARAMS: VDD=1
+  VSS=0 VTHRESH=500E-3
G_U6_G1         VIN2 GND U6_N16669985 0 0.05u
X_U6_U11         EN_CH1 U6_N16672366 U6_N16672326 AND2_BASIC_GEN PARAMS: VDD=1
+  VSS=0 VTHRESH=500E-3
G_U6_G2         VIN2 GND U6_N16670140 0 1.2u
X_U6_U4         EN_CH2 CH1_SEL U6_N16671848 AND2_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=500E-3
G_U6_G5         VIN2 GND U6_N16671197 0 0.1u
E_U7_ABM16         U7_N16194620 0 VALUE { IF(V(EN_GATE2) > 0.5, V(VIN2),0)    }
D_U7_D7         U7_N16177224 U7_SOURCE DD 
C_U7_C4         VOUT_0 U7_GATE_1  130p  TC=0,0 
D_U7_D8         VOUT_0 U7_SOURCE DD 
G_U7_G11         U7_GATE_1 GND FAST_RISE_2 0 100u
E_U7_ABM17         U7_CLAMP 0 VALUE { IF((V(VOUT_0)  
+ >V(VIN2)),V(VOUT_0),V(VIN2))   }
X_U7_U7         U7_N16680056 U7_N16177224 U7_ON_RES1 0 RVAR PARAMS:  RREF=1
X_U7_U59         U7_N16678010 EN_CH2 U7_N16678042 AND2_BASIC_GEN PARAMS: VDD=1
+  VSS=0 VTHRESH=500E-3
X_U7_S2    U7_BFET_EN 0 U7_N16177224 U7_SOURCE CHANNEL_1_U7_S2 
V_U7_V2         U7_N16184706 0 25m
M_U7_HFET_1         VOUT_0 U7_GATE_1 U7_SOURCE U7_CLAMP PMOS01           
V_U7_V1         U7_N16184645 VIN2_INT 42m
X_U7_U57         FAST_RISE_2 EN_GATE2 U7_N16678010 OR2_BASIC_GEN PARAMS: VDD=1
+  VSS=0 VTHRESH=500E-3
X_U7_S1    RCB_2 0 VIN2 U7_N16680056 CHANNEL_1_U7_S1 
D_U7_D9         GND U7_GATE_1 DD 
E_U7_E2         U7_N16679358 0 TABLE { V(VIN2_INT, 0) } 
+ ( (0,0)(1.6,39m)(1.8,38m)(3.3,38m)(4,35m) )
X_U7_U58         U7_N16678042 U7_BFET_EN INV_DELAY_BASIC_GEN PARAMS: VDD=1
+  VSS=0 VTHRESH=0.5 DELAY=200n
C_U7_C11         0 U7_ON_RES1  1n  
X_U7_U3         U7_N16185653 RCB_2 BUF_DELAY_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=0.5 DELAY=2u
G_U7_G1         U7_CLAMP U7_GATE_1 U7_BFET_EN 0 1m
D_U7_D6         U7_GATE_1 U7_CLAMP DD 
X_U7_U2         VOUT_INT U7_N16184645 U7_N16184706 U7_N16185653
+  COMPHYS_BASIC_GEN PARAMS: VDD=1 VSS=0 VTHRESH=0.5
R_U7_R6         U7_N16679358 U7_ON_RES1  10 TC=0,0 
G_U7_G8         U7_GATE_1 GND TABLE { V(U7_N16194620, 0) } 
+ ( (0,0)(1.8,208n)(3.3,264n)(5.0,306n) )
.ENDS   TPS2117_TRANS
*$
.subckt CHANNEL_1_U1_S2 1 2 3 4  
S_U1_S2         3 4 1 2 _U1_S2
RS_U1_S2         1 2 1G
.MODEL         _U1_S2 VSWITCH Roff=1m Ron=1G Voff=0.2 Von=0.8
.ends CHANNEL_1_U1_S2
*$
.subckt CHANNEL_1_U1_S1 1 2 3 4  
S_U1_S1         3 4 1 2 _U1_S1
RS_U1_S1         1 2 1G
.MODEL         _U1_S1 VSWITCH Roff=1m Ron=1G Voff=0.1 Von=0.8
.ends CHANNEL_1_U1_S1
*$
.subckt MODE_PR1_ST_U3_S1 1 2 3 4  
S_U3_S1         3 4 1 2 _U3_S1
RS_U3_S1         1 2 1G
.MODEL         _U3_S1 VSWITCH Roff=53.3Meg Ron=100 Voff=0.8V Von=0.2V
.ends MODE_PR1_ST_U3_S1
*$
.subckt CHANNEL_1_U7_S2 1 2 3 4  
S_U7_S2         3 4 1 2 _U7_S2
RS_U7_S2         1 2 1G
.MODEL         _U7_S2 VSWITCH Roff=1m Ron=1G Voff=0.2 Von=0.8
.ends CHANNEL_1_U7_S2
*$
.subckt CHANNEL_1_U7_S1 1 2 3 4  
S_U7_S1         3 4 1 2 _U7_S1
RS_U7_S1         1 2 1G
.MODEL         _U7_S1 VSWITCH Roff=1m Ron=1G Voff=0.1 Von=0.8
.ends CHANNEL_1_U7_S1
*$
.model DD d
+ is=1e-015
+ n=0.01
+ tt=1e-011
*$
.model PMOS01 pmos
+ vto=-0.69
+ kp=1000
+ lambda=0.001
*$
.SUBCKT COMPHYS_BASIC_GEN INP INM HYS OUT PARAMS: VDD=1 VSS=0 VTHRESH=0.5	
EIN INP1 INM1 INP INM 1 
EHYS INP1 INP2 VALUE { IF( V(1) > {VTHRESH},-V(HYS),0) }
EOUT OUT 0 VALUE { IF( V(INP2)>V(INM1), {VDD} ,{VSS}) }
R1 OUT 1 1
C1 1 0 5n
RINP1 INP1 0 1K
.ENDS COMPHYS_BASIC_GEN
*$
.SUBCKT BUF_DELAY_BASIC_GEN A  Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5 DELAY = 10n 
E_ABMGATE1    YINT1 0 VALUE {{IF(V(A) > {VTHRESH} , 
+ {VDD},{VSS})}}
RINT YINT1 YINT2 1
CINT YINT2 0 {DELAY*1.3}
E_ABMGATE2    YINT3 0 VALUE {{IF(V(YINT2) > {VTHRESH} , 
+ {VDD},{VSS})}}
RINT2 YINT3 Y 1
CINT2 Y 0 1n
.ENDS BUF_DELAY_BASIC_GEN
*$
.SUBCKT AND2_BASIC_GEN A B Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5 
E_ABMGATE    YINT 0 VALUE {{IF(V(A) > {VTHRESH}  &  
+ V(B) > {VTHRESH},{VDD},{VSS})}}
RINT YINT Y 1
CINT Y 0 1n
.ENDS AND2_BASIC_GEN
*$
.SUBCKT OR2_BASIC_GEN A B Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5 
E_ABMGATE    YINT 0 VALUE {{IF(V(A) > {VTHRESH}  |  
+ V(B) > {VTHRESH},{VDD},{VSS})}}
RINT YINT Y 1
CINT Y 0 1n
.ENDS OR2_BASIC_GEN
*$
.SUBCKT INV_DELAY_BASIC_GEN A  Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5 DELAY = 10n 
E_ABMGATE1    YINT1 0 VALUE {{IF(V(A) > {VTHRESH} , 
+ {VDD},{VSS})}}
RINT YINT1 YINT2 1
CINT YINT2 0 {DELAY*1.3}
E_ABMGATE2    YINT3 0 VALUE {{IF(V(YINT2) > {VTHRESH} , 
+ {VSS},{VDD})}}
RINT2 YINT3 Y 1
CINT2 Y 0 1n
.ENDS INV_DELAY_BASIC_GEN
*$
.subckt rvar 101 102 201 202 Params: Rref=1
rin 201 202 1G
r 301 0 {rref}
fcopy 0 301 vsense 1
eout 101 106 poly(2) 201 202 301 0 0 0 0 0 1
vsense 106 102 0
.ends
*$
.SUBCKT AND3_BASIC_GEN A B C Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5 
E_ABMGATE    YINT 0 VALUE {{IF(V(A) > {VTHRESH}  &  
+ V(B) > {VTHRESH} &
+ V(C) > {VTHRESH},{VDD},{VSS})}}
RINT YINT Y 1
CINT Y 0 1n
.ENDS AND3_BASIC_GEN
*$
.SUBCKT INV_BASIC_GEN A  Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5 
E_ABMGATE    YINT 0 VALUE {{IF(V(A) > {VTHRESH} , 
+ {VSS},{VDD})}}
RINT YINT Y 1
CINT Y 0 1n
.ENDS INV_BASIC_GEN
*$
.SUBCKT NOR2_BASIC_GEN A B Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5 
E_ABMGATE    YINT 0 VALUE {{IF(V(A) > {VTHRESH}  |  
+ V(B) > {VTHRESH},{VSS},{VDD})}}
RINT YINT Y 1
CINT Y 0 1n
.ENDS NOR2_BASIC_GEN
*$
.SUBCKT COMP_BASIC_GEN INP INM Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5	
E_ABM Yint 0 VALUE {IF (V(INP) > 
+ V(INM), {VDD},{VSS})}
R1 Yint Y 1
C1 Y 0 1n
.ENDS COMP_BASIC_GEN
*$
.SUBCKT SRLATCHRHP_BASIC_GEN S R Q QB PARAMS: VDD=1 VSS=0 VTHRESH=0.5 
GQ 0 Qint VALUE = {IF(V(R) > {VTHRESH},-5,IF(V(S)>{VTHRESH},5, 0))}
CQint Qint 0 1n
RQint Qint 0 1000MEG
D_D10 Qint MY5 D_D1
V1 MY5 0 {VDD}
D_D11 MYVSS Qint D_D1
V2 MYVSS 0 {VSS} 
EQ Qqq 0 Qint 0 1
X3 Qqq Qqqd1 BUF_BASIC_GEN PARAMS: VDD={VDD} VSS={VSS} VTHRESH={VTHRESH}
RQq Qqqd1 Q 1
EQb Qbr 0 VALUE = {IF( V(Q) > {VTHRESH}, {VSS},{VDD})}
RQb Qbr QB 1 
Cdummy1 Q 0 1n 
Cdummy2 QB 0 1n
.IC V(Qint) {VSS}
.model d_d1 d
+ is=1e-015
+ tt=1e-011
+ rs=0.05
+ n=0.01
.ENDS SRLATCHRHP_BASIC_GEN
*$
.SUBCKT BUF_BASIC_GEN A  Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5 
E_ABMGATE    YINT 0 VALUE {{IF(V(A) > {VTHRESH} , 
+ {VDD},{VSS})}}
RINT YINT Y 1
CINT Y 0 1n
.ENDS BUF_BASIC_GEN
*$
.SUBCKT OR4_BASIC_GEN A B C D Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5 
E_ABMGATE    YINT 0 VALUE {{IF(V(A) > {VTHRESH}  |  
+ V(B) > {VTHRESH} |
+ V(C) > {VTHRESH} |
+ V(D) > {VTHRESH},{VDD},{VSS})}}
RINT YINT Y 1
CINT Y 0 1n
.ENDS OR4_BASIC_GEN
*$
.subckt asymmetric_delay inp  out params: rising_edge_delay=1 vthresh=0.5
+  falling_edge_delay=1 vdd=1 vss=0
e_abm3         inp1 0 value { if(v(inp) > {vthresh}, {vdd} , {vss})    }
e_abm1         yin4 0 value { if(v(yin3) > {vthresh}, {vdd} , {vss})    }
e_abm2         yin2 0 value { if(v(yin1) > {vthresh}, {vdd} , {vss})    }
r_rint         inp1 yin1  1  
c_cint         yin1 0  {1.443*rising_edge_delay} 
d_d10         yin1 inp1 d_d1
r_r1         yin4 out  1  
r_rout         yin2 yin3  1  
c_cout         yin3 0 {1.443*falling_edge_delay} 
c_c1         0 out  1n   
d_d11        yin2 yin3 d_d1
.model d_d1 d
+ is=1e-015
+ tt=1e-011
+ rs=0.005
+ n=0.1
.ends asymmetric_delay
*$
.SUBCKT NAND2_BASIC_GEN A B Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5 
E_ABMGATE    YINT 0 VALUE {{IF(V(A) > {VTHRESH}  &  
+ V(B) > {VTHRESH},{VSS},{VDD})}}
RINT YINT Y 1
CINT Y 0 1n
.ENDS NAND2_BASIC_GEN
*$
.SUBCKT OR3_BASIC_GEN A B C Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5 
E_ABMGATE    YINT 0 VALUE {{IF(V(A) > {VTHRESH}  |  
+ V(B) > {VTHRESH} |
+ V(C) > {VTHRESH},{VDD},{VSS})}}
RINT YINT Y 1
CINT Y 0 1n
.ENDS OR3_BASIC_GEN
*$
.SUBCKT ONE_SHOT IN OUT PARAMS:  T=100
S_S1         MEAS 0 RESET2 0 S1
E_ABM1         CH 0 VALUE { IF( V(IN)>0.5 | V(OUT)>0.5,1,0)    }
R_R2         RESET2 RESET  0.1  
E_ABM3         OUT 0 VALUE { IF( V(MEAS)<0.5 & V(CH)>0.5,1,0)    }
R_R1         MEAS CH  {T} 
C_C2         0 RESET2  1.4427N  
C_C1         0 MEAS  1.4427N  
E_ABM2         RESET 0 VALUE { IF(V(CH)<0.5,1,0)    }
.MODEL S1 VSWITCH
+ ROFF=1E+009
+ RON=1
+ VOFF=0.25
+ VON=0.75
.ENDS ONE_SHOT
*$
.SUBCKT MUX2_BASIC_GEN A B S Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5 
E_ABMGATE  YINT 0 VALUE {{IF(V(S) > {VTHRESH},  
+ V(B),V(A))}}
RINT YINT Y 1
CINT Y 0 1n
.ENDS MUX2_BASIC_GEN
*$
